US04596819
A solution of 1.54 g of (S)-N-(2-amino-4-methylpentyl)glycine, 1,1-dimethylethyl ester, 890 mg of L-pyroglutamic acid, and 904 mg of hydroxybenzotriazole, hydrate in 30 ml of N,N-dimethylformamide is cooled in ice and treated dropwise with a solution of 1.4 g of N,N'-dicyclohexylcarbodiimide in 5 ml of N,N-dimethylformamide. After stirring at 0° for 0.5 hours, the mixture is kept at room temperature overnight. The mixture is filtered and the solvent distilled off under high vacuum. The residue is taken up in ethyl acetate and the ethyl acetate washed two times with water. The water is adjusted to pH 6 and lyophilized. The residue is chromatographed on 95 g of silica gel eluting with chloroform/methanol, (94:6). Combining the appropriate fractions gives 1.2 g of [S-(R*,R*)]-N-[4-methyl-2-[[(5-oxo-2-pyrrolidinyl]carbonyl)amino]pentyl]glycine, 1,1-dimethylethyl ester. The product is homogeneous by thin layer chromatography.

reactant | (S)-N-(2-amino-4-methylpentyl)glycine, 1,1-dimethylethyl ester | 1.54 g | N[C@H](CNCC(=O)OC(C)(C)C)CC(C)C | C12H26N2O2
reactant | L-pyroglutamic acid | 890 mg | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | hydroxybenzotriazole, hydrate | 904 mg | O.OC1=CC=CC=2NN=NC21
reactant | N,N'-dicyclohexylcarbodiimide | 1.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[4-methyl-2-[[(5-oxo-2-pyrrolidinyl]carbonyl)amino]pentyl]glycine, 1,1-dimethylethyl ester | CC(CC(CNCC(=O)OC(C)(C)C)NC(=O)C1NC(CC1)=O)C | C17H31N3O4
